US06294558B1
[4-(Fluoromethylsulfonyl)phenyl]hydrazine hydrochloride. (step 1)
A mixture of 4-chlorophenyl fluoromethyl sulfone (1.97 g, 9.44 mmol, prepared according to the method of Ukrainskill Khimicheskill Zhurnal, 1972, 38, 1034) and hydrazine anhydrous (1.84 g, 57.5 mmol) in DMF (30 mL) was heated to 120° C. for 16 hours, and cooled down to room temperature. The reaction mixture was poured into water (150 mL) and the whole was extracted with ethyl acetate/hexane/ether (2/1/1, 60 mL×3). The organic layer was washed with brine, dried over sodium sulfate, and concentrated in vacuo. The resulting solid (1.56 g, 7.64 mmol) was added HCl—MeOH reagent 10 (10 mL) at room temperature and stirred for 10 minutes. The mixture was concentrated in vacuo to give the subtitle compound (0.91 g, 49.4% yield).

reactant | 4-chlorophenyl fluoromethyl sulfone | FCS(=O)(=O)C1=CC=C(C=C1)Cl | C7H6ClFO2S
reactant | hydrazine | 57.5 mmol, 1.84 g | NN | H4N2
reactant | water | 150 mL | O | H2O
reactant | HCl MeOH | Cl.CO
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | [4-(Fluoromethylsulfonyl)phenyl]hydrazine hydrochloride | 0.91 g, 49.4% yield | Cl.FCS(=O)(=O)C1=CC=C(C=C1)NN | InChI=1S/C7H9FN2O2S.ClH/c8-5-13(11,12)7-3-1-6(10-9)2-4-7;/h1-4,10H,5,9H2;1H
